US07816369B2
To a stirred solution of 2-(2-chloro-5-nitro-phenyl)-1H-benzoimidazole-5-carbonitrile (2.00 g; 6.70 mmol) in ethanol (20 ml) in a sealable tube was added triethylamine (1.90 ml; 13.4 mmol). A solution of hydroxylamine hydrochloride (933 mg; 13.4 mmol) in water (4 ml) was added, the tube sealed and the mixture stirred at 75° C. for 2 hours. After cooling to room temperature, water (100 ml) was added, the precipitate filtered and washed with more water to leave 2-(2-chloro-5-nitro-phenyl)-N-hydroxy-1H-benzoimidazole-5-carboxamidine (1.76 g, 82%).

reactant | 2-(2-chloro-5-nitro-phenyl)-1H-benzoimidazole-5-carbonitrile | 6.70 mmol, 2.00 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC2=C(N1)C=CC(=C2)C#N | C14H7ClN4O2
reactant | triethylamine | 13.4 mmol, 1.90 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 13.4 mmol, 933 mg | Cl.NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(2-chloro-5-nitro-phenyl)-N-hydroxy-1H-benzoimidazole-5-carboxamidine | 1.76 g, 82% | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC2=C(N1)C=CC(=C2)C(=N)NO | C14H10ClN5O3
